US08242145B2
Step 1: {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid ethyl ester
[3-(4-Bromo-2-bromomethyl-phenoxy)-5-chloro-phenyl]-acetic acid ethyl ester (0.10 g, 0.25 mmol), 2-oxazolidone (0.044 g, 0.5 mmol), and sodium hydride (60% in mineral oil; 0.02 g, 0.5 mmol) were combined in 1,4-dioxane (4 mL) and stirred at 80° C. for 2 hours. After work-up, the crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | [3-(4-Bromo-2-bromomethyl-phenoxy)-5-chloro-phenyl]-acetic acid ethyl ester | 0.25 mmol, 0.10 g | C(C)OC(CC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)Br)CBr)=O | C17H15Br2ClO3
reactant | 2-oxazolidone | 0.5 mmol, 0.044 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 0.5 mmol, 0.02 g | [H-].[Na+]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C20H19BrClNO5
